US08461209B2
(1) 5-cyclopropylmethyl-2,2-dimethyl-1,3-dioxane-4,6-dione
To a solution of cyclopropanecarboxylic acid (17.2 g) in methylene chloride (800 mL) were added Meldrum's acid (28.8 g), WSCI.HCl (42.2 g) and 4-dimethylaminopyridine (39.1 g), and the mixture was stirred at room temperature for 18 hr. Water and then hydrochloric acid were added to acidify the reaction mixture, and the aqueous layer was removed by partitioning. Under ice-cooling, acetic acid (114 mL) and then sodium borohydride (18.9 g) were added slowly to the organic layer, and the mixture was stirred at room temperature for 3 days. Water and then hydrochloric acid were added to the reaction mixture, and the aqueous layer was removed by partitioning. The organic layer was concentrated to give a yellow powder. This was washed with ether/hexane to give the title compound (25.8 g) as a yellow powder.

reactant | cyclopropanecarboxylic acid | 17.2 g | C1(CC1)C(=O)O | C4H6O2
reactant | Meldrum's acid | 28.8 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | WSCI.HCl | 42.2 g | CCN=C=NCCCN(C)C.Cl
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 800 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 39.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | Water | O | H2O
product | 5-cyclopropylmethyl-2,2-dimethyl-1,3-dioxane-4,6-dione | 25.8 g | C1(CC1)CC1C(OC(OC1=O)(C)C)=O | C10H14O4
